US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(thiophen-2-ylmethyl)-amide
Prepared analogously to Example 1 from 2-(aminomethyl)-thiophene and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | 2-(aminomethyl)-thiophene | NCC=1SC=CC1 | C5H7NS
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(thiophen-2-ylmethyl)-amide | S1C(=CC=C1)CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C23H22BrNOS
